US08604029B2
N-[2-(4-Methyl-piperazin-1yl)-oxo-ethyl]-4-nitro-benzamide (1.0 g, 3.2 mmol) was stirred at r.t. for 24 hours in trifluoroacetic anhydride (20 mL). The resulting solid was filtered, washed with excess of water, and dried to afford 2,2,2-trifluoro-1-[5-(4-methyl-piperazin-1-yl)-2-(4-nitrophenyl)-oxazol-4-yl]-ethanone (700 mg, 56%) as a pale yellow solid.

reactant | N-[2-(4-Methyl-piperazin-1yl)-oxo-ethyl]-4-nitro-benzamide | 3.2 mmol, 1.0 g | CN1CCN(CC1)C(CNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C14H18N4O4
reactant | trifluoroacetic anhydride | 20 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-trifluoro-1-[5-(4-methyl-piperazin-1-yl)-2-(4-nitrophenyl)-oxazol-4-yl]-ethanone | 700 mg, 56% | FC(C(=O)C=1N=C(OC1N1CCN(CC1)C)C1=CC=C(C=C1)[N+](=O)[O-])(F)F | C16H15F3N4O4
